US07531532B2
4-(Azetidin-1-yl)-1-benzylpiperidine dihydrochloride
Triethylamine (3.51 ml) was added to a suspension of azetidine hydrochloride (2.35 g) in tetrahydrofuran (60 ml). 1-Benzyl-4-piperidone (3.71 ml) and acetic acid (2.29 ml) were added thereto and the mixture was stirred in an ice bath. Sodium triacetoxyborohydride (6.36 g) and dichloroethane (60 ml) were further added, and the mixture was stirred for 3.3 hours at room temperature. After adding sodium carbonate to the reaction mixture until foaming ceased, water (50 ml), ethyl acetate (300 ml) and brine (50 ml) were added for partition. The aqueous layer was extracted with ethyl acetate (200 ml). The organic layers were combined and washed with saturated aqueous sodium hydrogencarbonate and dried over anhydrous sodium sulfate. The dried organic layer was concentrated under reduced pressure to provide a pale brown oil. This was dissolved in diethyl ether (20 ml)-hexane (20 ml) and a 4N hydrochloric acid-ethyl acetate solution (11 ml) was added. The precipitated solid was filtered and washed with hexane. This was subjected to aeration drying to provide a crude product of the title compound (6.55 g, quantitative) as a white solid.

reactant | azetidine hydrochloride | 2.35 g | Cl.N1CCC1
reactant | 1-Benzyl-4-piperidone | 3.71 ml | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | Sodium triacetoxyborohydride | 6.36 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | dichloroethane | 60 ml | ClC(C)Cl | C2H4Cl2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloric acid ethyl acetate | 4N, 11 ml | Cl.C(C)(=O)OCC
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | brine | 50 ml | [Cl-].[Na+].O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | hexane | 20 ml | CCCCCC | C6H14
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 50 ml | O | H2O
solvent | acetic acid | 2.29 ml | C(C)(=O)O | C2H4O2
solvent | Triethylamine | 3.51 ml | C(C)N(CC)CC | C6H15N
product | 4-(Azetidin-1-yl)-1-benzylpiperidine dihydrochloride | 6.55 g | Cl.Cl.N1(CCC1)C1CCN(CC1)CC1=CC=CC=C1 | InChI=1S/C15H22N2.2ClH/c1-2-5-14(6-3-1)13-16-11-7-15(8-12-16)17-9-4-10-17;;/h1-3,5-6,15H,4,7-13H2;2*1H
